Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:9]([H:10])([H:11])[H:12].[O:4]=[C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2]=[C:3]([O:4][C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],2.90648519565
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:4],3.7392951747800023
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])/[C:10]=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16],-2.00943251235
[O:1][C:2]#[C:3][H:4].[O:5]=[C:6]([H:7])[H:8]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[H:8],-0.4418497725
[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][C@@:4]([H:5])([O:6])[C:10]([H:11])([H:12])[H:13],5.15325994203
[H:10].[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]=[C:11]([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.8361259509900005
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9][C:11]([H:12])([H:13])[H:14],4.91986406457
[H:1][C:2]([H:3])[C:4]1=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])=[O:7])[C:11]([C:8]([H:9])[H:10])([H:12])[H:13],0.0259129622999999
[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-7.217594768089999
[H:1][O:2][C@@:3]1([H:4])[O:5][C:6][C:7]1[H:8]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]#[C:7][H:8],0.0931846917101
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:3].[O:1]=[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],3.99085380137
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],1.44196107433
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5][C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13].[H:6],4.27214873594
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[H:11].[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[C:9][H:10],5.38335525034
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],4.6632395863300005
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4][C:5]=[C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7],2.53662576606
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6][H:7]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-3.67888622084
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20]>>[H:13].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])[H:12])[C:14]([H:15])([H:16])[C:17]([H:18])([H:19])[H:20],4.54982367369
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][O:4][H:5],1.53073785171
[C:2](#[C:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11].[O:1]>>[O:1][C:2](=[C:3]=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-4.75281132
[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2](=[O:3])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.7866932826599995
[H:1][C:2][C@@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:5]=[C:6]([H:7])[H:8],-1.89417604404
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:4],3.80611570018
[C:4]([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]>>[H:1][O:2]/[C:3]=[C:4](\[O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.81877956103
[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2][C:3]([H:4])([H:5])[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-4.62985131407
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17],-2.07977946589
